US07807677B2
5,6-Dihydro-cyclopenta[b]thiophen-4-one (23a)
Over a period of 10 minutes a solution of triflic anhydride (84.7 g, 0.30 mol) in DCE (300 mL) was added to a cold solution of N,N-dimethylacrylamide (29.8 g, 0.30 mol) in DCE (2700 mL). The mixture was stirred for 15 minutes at 0° C. A solution of thiophene (25.3 g, 0.30 mol) was added and the mixture was refluxed for seven hours. A solution of potassium carbonate (150 g in 200 mL of water) was added. The mixture was extracted two times with DCM dried over sodium sulphate and evaporated under reduced pressure. The compound was purified by silica gel chromatography with ethyl acetate/hexane.

reactant | triflic anhydride | 0.30 mol, 84.7 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | N,N-dimethylacrylamide | 0.30 mol, 29.8 g | CN(C(C=C)=O)C | C5H9NO
reactant | thiophene | 0.30 mol, 25.3 g | S1C=CC=C1 | C4H4S
reactant | potassium carbonate | 200 mL, 150 g | C([O-])([O-])=O.[K+].[K+]
solvent | DCE | 300 mL | ClCCCl | C2H4Cl2
solvent | DCE | 2700 mL | ClCCCl | C2H4Cl2
product | 5,6-Dihydro-cyclopenta[b]thiophen-4-one | S1C2=C(C=C1)C(CC2)=O | C7H6OS
